US04391825
N-[[6-Methoxy-5-(trifluoromethylthio)-1-naphthalenyl]thioxomethyl]-N-methylglycine Methyl Ester (II, R1, R2 and R3 =CH3)
N-[[6-Methoxy-5-(trifluoromethylthio)-1-naphthalenyl]carbonyl]-N-methylglycine methyl ester (2.0 g, 5.4 mmoles) was dissolved in dry pyridine (40 ml). Phosphorus pentasulfide (2.37 g, 10.7 mmoles) was added to the pyridine solution. The mixture was heated at refluxed for 4 hr and then poured into warm water at 50° to 80° C. (caution: evolution of copious quantities of H2S). The mixture was extracted with ethyl acetate. The extract was washed successively with 3 N aqueous HCl, water, a saturated aqueous solution of NaHCO3, water and brine, dried (MgSO4) and concentrated to dryness. The residue was recrystallized from ethanol-water to give 1.6 g of the title compound; mp 121°-123° C.; NMR (CDCl3) δ 3.00 (s, 3H), 3.75 (s, 3H), 4.00 (s, 3H), 4.35 and 4.5 (d, 2H), 7.0-8.5 (m, 5H).

reactant | N-[[6-Methoxy-5-(trifluoromethylthio)-1-naphthalenyl]carbonyl]-N-methylglycine methyl ester | 5.4 mmoles, 2.0 g | COC(CN(C)C(=O)C1=CC=CC2=C(C(=CC=C12)OC)SC(F)(F)F)=O | C17H16F3NO4S
reactant | Phosphorus pentasulfide | 10.7 mmoles, 2.37 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | water | O | H2O
reactant | H2S | S | H2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-[[6-Methoxy-5-(trifluoromethylthio)-1-naphthalenyl]thioxomethyl]-N-methylglycine Methyl Ester | 1.6 g | COC(CN(C)C(=S)C1=CC=CC2=C(C(=CC=C12)OC)SC(F)(F)F)=O | C17H16F3NO3S2
